US08609731B2
6-[(S)-1-(Tetrahydrofuran-2-yl)methoxy]isochroman-1-one
A mixture of 6-hydroxyisochroman-1-one (332 mg), methanesulfonic acid (S)-1-(tetrahydrofuran-2-yl)methyl ester (284 mg), cesium carbonate (1.28 g) and DMF (8 ml) was heated to 70° C. for 7 hours. The cooled reaction mixture was partitioned between water and ethyl acetate. The organic phase was dried and concentrated. The crude product was purified by chromatography on silica gel. The product was thus obtained with the molecular weight of 248.28 (C14H16O4); MS (ESI): 249 (M+H+).

reactant | 6-hydroxyisochroman-1-one | 332 mg | OC=1C=C2CCOC(C2=CC1)=O | C9H8O3
reactant | methanesulfonic acid (S)-1-(tetrahydrofuran-2-yl)methyl ester | 284 mg | O1[C@@H](CCC1)COS(=O)(=O)C | C6H12O4S
reactant | cesium carbonate | 1.28 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 6-[(S)-1-(Tetrahydrofuran-2-yl)methoxy]isochroman-1-one | O1[C@@H](CCC1)COC=1C=C2CCOC(C2=CC1)=O | C14H16O4
